US03956285
1-(5,8-Dihydro-1-naphthyloxy)-3-(pyrrolidino)-2-propyl acetate
A mixture of 3 g. of 1-(5,8-dihydro-1-naphthyloxy)-3-(pyrrolidino)-2-propanol, 1.5 g. of fused acetate and 15 ml. of acetic anhydride is heated on a steam bath with occasional shaking for one hour. At the end of this time, the warm solution is poured with vigorous stirring into 100 ml. of ice water. The mixture is stirred for 10-15 minutes and the crystals of 1-(5,8-dihydro-1-naphthyloxy)-3-(pyrrolidino)-2-propyl acetate are collected, washed thoroughly with water, and purified by crystallization from alcohol.

reactant | 1-(5,8-dihydro-1-naphthyloxy)-3-(pyrrolidino)-2-propanol | C1(=CC=CC=2CC=CCC12)OCC(CN1CCCC1)O | C17H23NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(5,8-Dihydro-1-naphthyloxy)-3-(pyrrolidino)-2-propyl acetate | C(C)(=O)OC(COC1=CC=CC=2CC=CCC12)CN1CCCC1 | C19H25NO3
